US09023873B2
To a suspension of 2-fluoro-3-nitrobenzoic acid (6.3 g, 34 mmol) in dichloromethane (20 ml) was added oxalyl chloride (4.3 ml) at ambient temperature, followed by N,N-dimethylformamide (0.2 ml). The reaction mixture was stirred for 1 hour at ambient temperature and then heated to reflux for 3 hours. The reaction mixture was allowed to cool to ambient temperature and then concentrated. The residue was suspended in tetrahydrofuran (50 ml). 2-Ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylaniline (preparation as described in WO 08/074427) (10 g, 28.3 mmol) was dissolved in tetrahydrofuran (50 ml) and pyridine (6.8 ml, 84.9 mmol) was added. The reaction mixture was stirred at ambient temperature for 3 hours, then at reflux for 3 hours. The reaction was quenched by addition of saturated aqueous sodium hydrogen carbonate (100 ml) and the mixture extracted twice with ethyl acetate (2×200 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 4:1 to 0:1) to give N-[2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylphenyl]-2-fluoro-3-nitrobenzamide (6.32 g, 43% yield).

reactant | 2-fluoro-3-nitrobenzoic acid | 34 mmol, 6.3 g | FC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4FNO4
reactant | oxalyl chloride | 4.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-Ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylaniline | 28.3 mmol, 10 g | C(C)C1=C(N)C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)C | C13H12F9N
reactant | pyridine | 84.9 mmol, 6.8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | N-[2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylphenyl]-2-fluoro-3-nitrobenzamide | 6.32 g, 43% yield | C(C)C1=C(C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)C)NC(C1=C(C(=CC=C1)[N+](=O)[O-])F)=O | C20H14F10N2O3
